US07465731B2
To a mixture of tert-butyl (3R)-3-pyrrolidinylcarbamate (450 mg) and 3-methoxybenzaldehyde (352 uL) in CH2Cl2 (4.5 mL) was added sodium triacetoxyborohydride (922 mg), which was stirred at room temperature for 2 hours. To the resultant was added sat. NaHCO3 aq., which was stirred for 20 min. The mixture was extracted with CH2Cl2. The organic phase was washed with brine and dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give tert-butyl [(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]carbamate (744 mg) as a off-white solid.

reactant | tert-butyl (3R)-3-pyrrolidinylcarbamate | 450 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 3-methoxybenzaldehyde | 352 uL | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | sodium triacetoxyborohydride | 922 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]carbamate | 744 mg | COC=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C17H26N2O3
